US04210648
5,11-Dihydro-11-(4-pyrrolidino-butyryl)-6H-pyrido[2,3-b][1,4]-benzodiazepin-6-one
5.5 gm of 11-(4-chlorobutyryl)-5,11-dihydro-6H-pyrido [2,3-b][1,4]-benzodiazepin-6-one, 1.4 gm of pyrrolidine and 2.1 gm of sodium carbonate were refluxed in a mixture of 80 ml of absolute ethanol and 20 ml of absolute dioxane for 10 hours. Then the hot mixture was suction-filtered, the filtrate was evaporated in vacuo to dryness, and the residue was purified on a silica gel column. The eluate was evaporated in vacuo to dryness, and the residue was recrystallized from acetonitrile.

reactant | 11-(4-chlorobutyryl)-5,11-dihydro-6H-pyrido [2,3-b][1,4]-benzodiazepin-6-one | 5.5 gm | ClCCCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C16H14ClN3O2
reactant | pyrrolidine | 1.4 gm | N1CCCC1 | C4H9N
reactant | sodium carbonate | 2.1 gm | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 5,11-Dihydro-11-(4-pyrrolidino-butyryl)-6H-pyrido[2,3-b][1,4]-benzodiazepin-6-one | N1(CCCC1)CCCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C20H22N4O2
